US07994163B2
Add TFA (19 mL) to a solution of 3-tert-butoxycarbonyl-7-chloro-6-(4-methyl-thiazol-2-ylthiomethyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (0.395 g, 0.93 mmol) in anhydrous DCM (19 mL) at room temperature and stir under nitrogen overnight. Concentrate the reaction mixture in vacuo and purify by SCX chromatography (10 g) eluting with DCM and then DCM/2M ammonia in methanol (1:1). Purify again by chromatography on silica gel (40 g) eluting with DCM/2M ammonia in methanol (1:0 to 9:1 gradient over 30 min; 35 mL/min) to obtain 7-chloro-6-(4-methyl-thiazol-2-ylthiomethyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (0.297 g, 99%).

reactant | TFA | 19 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 3-tert-butoxycarbonyl-7-chloro-6-(4-methyl-thiazol-2-ylthiomethyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.93 mmol, 0.395 g | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)CSC=2SC=C(N2)C | C20H25ClN2O2S2
solvent | DCM | 19 mL | C(Cl)Cl | CH2Cl2
product | 7-chloro-6-(4-methyl-thiazol-2-ylthiomethyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.297 g, 99% | ClC1=C(C2=C(CCNCC2)C=C1)CSC=1SC=C(N1)C | C15H17ClN2S2
